US08466114B2
To an ice cold solution of (4-benzylspiro[3H-1,4-benzoxazine-2,1-cyclopropane]-6-yl)-(5-bromo-2-chloro-phenyl)methanol (780 mg, 1.7 mmol) in trifluoroacetic acid (4 mL) was added triethylsilane (1.32 mL, 8.3 mmol) followed by triflic acid (0.15 mL, 1.7 mmol). After heating the mixture for 15 min at 50° C., the reaction was cooled to room temperature. Trifluoroacetic acid was evaporated under reduced pressure, and the resulting residue was taken in saturated aq. sodium bicarbonate solution and extracted with ethyl acetate. The organic layer was washed with water, brine, dried over sodium sulfate, and concentrated. The resulting residue was purified by silica gel column chromatography to furnish 4-benzyl-6-[(5-bromo-2-chloro-phenyl)methyl]spiro[3H-1,4-benzoxazine-2,1-cyclopropane] (715 mg).

reactant | (4-benzylspiro[3H-1,4-benzoxazine-2,1-cyclopropane]-6-yl)-(5-bromo-2-chloro-phenyl)methanol | 1.7 mmol, 780 mg | C(C1=CC=CC=C1)N1CC2(CC2)OC2=C1C=C(C=C2)C(O)C2=C(C=CC(=C2)Br)Cl | C24H21BrClNO2
reactant | triethylsilane | 8.3 mmol, 1.32 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | triflic acid | 1.7 mmol, 0.15 mL | OS(=O)(=O)C(F)(F)F | CHF3O3S
solvent | trifluoroacetic acid | 4 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 4-benzyl-6-[(5-bromo-2-chloro-phenyl)methyl]spiro[3H-1,4-benzoxazine-2,1-cyclopropane] | 715 mg | C(C1=CC=CC=C1)N1CC2(CC2)OC2=C1C=C(C=C2)CC2=C(C=CC(=C2)Br)Cl | C24H21BrClNO
